US08440665B2
To a solution of 4-bromothiazole-2-carboxylic acid (2.0 g, 9.8 mmol) in methanol (10 mL) was added thionyl chloride (710 μL, 9.8 mmol) and the mixture was refluxed for 3 hours. The solvent was removed under reduced pressure, and the residue was suspended in ethanol (10 mL). To this suspension was added hydrazine hydrate (2.4 mL, 49 mmol), and the reaction was heated to reflux for 90 minutes. The solvent was removed under reduced pressure, and the residue suspended in acetonitrile, filtered, and the solids were washed with acetonitrile, diethyl ether, and dried under vacuum to afford 1.7 g (77%) of 4-bromothiazole-2-carbohydrazide as a yellow solid. M+1=222.1

reactant | 4-bromothiazole-2-carboxylic acid | 9.8 mmol, 2.0 g | BrC=1N=C(SC1)C(=O)O | C4H2BrNO2S
reactant | thionyl chloride | 9.8 mmol, 710 μL | S(=O)(Cl)Cl | Cl2OS
reactant | hydrazine hydrate | 49 mmol, 2.4 mL | O.NN
solvent | methanol | 10 mL | CO | CH4O
product | 4-bromothiazole-2-carbohydrazide | 1.7 g, 77% | BrC=1N=C(SC1)C(=O)NN | C4H4BrN3OS
